US05712416
34.6 g (100 mmol) of dipotassium 2,5-dihydroxybenzene-1,4-disulfonate were dissolved in 500 ml of water at 60° C. After addition of 0.68 g (2 mmol) of iron 5,14-dihydrodibenzo[b,i][5,9,14,18]-tetraaza[14]annulene, 0.8 g (2 mmol) of diethylenetriaminepentaacetic acid, 1 ml of concentrated sulfuric acid and 1 ml of a commercial antifoam agent, 28.4 g (250 mmol) of 30% by weight aqueous hydrogen peroxide were added dropwise. The mixture was stirred for 15 min at 60° C. The solution was cooled to 5°-10° C. and then the solid was filtered off with suction and recrystallized from water to yield 14.5 g (42%) of dipotassium 1,4-benzoquinone-2,5-disulfonate in the form of reddish brown needles. Melting point >360° C.

reactant | dipotassium 2,5-dihydroxybenzene-1,4-disulfonate | 100 mmol, 34.6 g | OC1=C(C=C(C(=C1)S(=O)(=O)[O-])O)S(=O)(=O)[O-].[K+].[K+]
reactant | diethylenetriaminepentaacetic acid | 2 mmol, 0.8 g | C(CN(CC(=O)O)CC(=O)O)N(CCN(CC(=O)O)CC(=O)O)CC(=O)O | C14H23N3O10
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | OO | H2O2
solvent | water | 500 ml | O | H2O
product | dipotassium 1,4-benzoquinone-2,5-disulfonate | 14.5 g, 42% | C1(C(=CC(C(=C1)S(=O)(=O)[O-])=O)S(=O)(=O)[O-])=O.[K+].[K+] | InChI=1S/C6H4O8S2.2K/c7-3-1-5(15(9,10)11)4(8)2-6(3)16(12,13)14;;/h1-2H,(H,9,10,11)(H,12,13,14);;/q;2*+1/p-2
